US05591762
4'-[(2-n-Propyl-4-methyl-6-(1-ethoxycarbonylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 88 from tert.butyl 4'-[(2-n-propyl-4-methyl-6-(1-ethoxycarbonylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[(2-n-propyl-4-methyl-6-(1-ethoxycarbonylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2N=CN(C2)CC(=O)OCC | C36H40N4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[(2-n-Propyl-4-methyl-6-(1-ethoxycarbonylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=CN(C2)CC(=O)OCC | C32H32N4O4
